US04678781
Starting material prepared by reaction of 5-chlorothiazole with trimethyloxonium tetrafluoroborate in CH2Cl2 at ambient temperature for 3 hours to give 5-chloro-3-methylthiazolium tetrafluoroborate.

reactant | 5-chlorothiazole | ClC1=CN=CS1 | C3H2ClNS
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-methylthiazolium tetrafluoroborate | F[B-](F)(F)F.ClC1=C[N+](=CS1)C | InChI=1S/C4H5ClNS.BF4/c1-6-2-4(5)7-3-6;2-1(3,4)5/h2-3H,1H3;/q+1;-1
